US06268387B1
Step B: 3-Amino-4-methyl-N-phenyl-benzamide
Raney nickel (1 g) was added to a solution of 3-nitro-4-methyl-N-phenyl-benzamide (6.2 g, 24 mmol) in a mixture of tetrahydrofuran (50 mL) and methanol (100 mL) and shaken at room temperature under an atmosphere of hydrogen, initially at a pressure of 50 psi, until the required amount of hydrogen was taken up. The catalyst was removed by filtration, and the filtrate was stripped of solvent by rotary evaporator. The residue was dried under reduced pressure to afford the pure product (5.5 g); m.p. 149-151° C.

reactant | 3-nitro-4-methyl-N-phenyl-benzamide | 24 mmol, 6.2 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1C | C14H12N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | 3-Amino-4-methyl-N-phenyl-benzamide | 5.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1C | C14H14N2O
